US07601722B2
1-(4-chloro-2-methylphenyl)-3-{2-[(3R,5S)-3,5-dimethylpiperazin-1-yl]ethyl}-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide was prepared using 1-(2-bromoethyl)-3-(4-chloro-2-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide and cis-2,6-dimethyl piperazine analogous to the conditions used general procedure V.

reactant | 1-(2-bromoethyl)-3-(4-chloro-2-methylphenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | BrCCN1S(N(C2=C1C=CC=C2)C2=C(C=C(C=C2)Cl)C)(=O)=O | C15H14BrClN2O2S
reactant | cis-2,6-dimethyl piperazine | C[C@@H]1N[C@@H](CNC1)C | C6H14N2
product | 1-(4-chloro-2-methylphenyl)-3-{2-[(3R,5S)-3,5-dimethylpiperazin-1-yl]ethyl}-1,3-dihydro-2,1,3-benzothiadiazole 2,2-dioxide | ClC1=CC(=C(C=C1)N1S(N(C2=C1C=CC=C2)CCN2C[C@H](N[C@H](C2)C)C)(=O)=O)C | C21H27ClN4O2S
